US08735417B2
N-(3-bromo-5-nitrophenyl)acetamide (4 g, 15.44 mmol) was dissolved in ethanol (154 mL) and saturated NH4Cl(aq) (2 mL). Iron (2.59 g, 46.3 mmol) was added to the solution the reaction mixture was heated to 80° C. for 30 minutes. Upon completion, the reaction was cooled to room temperature and filtered through a short pad of silica gel (ethyl acetate wash). The organic was dried over sodium sulfate, filtered, and concentrated under reduced pressure. N-(3-amino-5-bromophenyl)acetamide was isolated as a beige foam (3.25 g, 14.19 mmol, 92%).

reactant | N-(3-bromo-5-nitrophenyl)acetamide | 15.44 mmol, 4 g | BrC=1C=C(C=C(C1)[N+](=O)[O-])NC(C)=O | C8H7BrN2O3
reactant | NH4Cl | 2 mL | [NH4+].[Cl-]
solvent | ethanol | 154 mL | C(C)O | C2H6O
catalyst | Iron | 46.3 mmol, 2.59 g | [Fe] | Fe
product | N-(3-amino-5-bromophenyl)acetamide | NC=1C=C(C=C(C1)Br)NC(C)=O | C8H9BrN2O
